US07790709B2
Preparation of (1,7-dimethyl-1H-indol-2-ylmethyl)methylamine
Sodium hydride (1.15 g, 28.7 mmol, 60% in mineral oil) was rinsed with hexanes and then suspended in DMF (20 mL). To this suspension was added 7-methylindole (2.5 g, 19 mmol) portionwise. Gas evolution was allowed to subside between additions. The resulting brown mixture was stirred at room temperature for 15 min and then CH3I (2.71 g, 95.5 mmol) was added in one portion. The exothermic reaction was cooled to 30° C. and stirred for 1 h. Saturated aqueous NH4Cl (10 mL) was added and the mixture was concentrated under reduced pressure. The residue was combined with water (100 mL) and the mixture was then extracted with diethyl ether (3×100 mL). The combined organics were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure to give the title compound (2.85 g, quantitative) as a red-pink oil which crystallized upon vacuum drying: 1H NMR (300 MHz, CDCl3) δ 7.43 (d, J=7.6 Hz, 1H), 6.97-6.87 (m, 3H), 6.41 (d, J=3.1 Hz, 1H), 4.04 (s, 3H), 2.7 (s, 3H).

reactant | Sodium hydride | 28.7 mmol, 1.15 g | [H-].[Na+]
reactant | 7-methylindole | 19 mmol, 2.5 g | CC=1C=CC=C2C=CNC12 | C9H9N
reactant | CH3I | 95.5 mmol, 2.71 g | CI | CH3I
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (1,7-dimethyl-1H-indol-2-ylmethyl)methylamine | 2.85 g | CN1C(=CC2=CC=CC(=C12)C)CNC | C12H16N2
